US07728025B2
(Step 4) Production of ethyl 3-(1-acetyl-pyrrolidin-2-yl)-4-hydroxybenzoate
13 g of p-toluenesulfonic acid monohydrate was added to a solution of 26 g of t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrolidine-1-carboxylate in a mixture of 250 ml of ethanol and 50 ml of water, and the reaction liquid was heated under reflux for 2 days. After cooled, the reaction liquid was diluted with water, neutralized with aqueous sodium bicarbonate, extracted with a mixed solvent of chloroform/methanol (10/1), and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure to obtain a crude product. 13 ml of acetic anhydride was added to a pyridine (200 ml) solution of the resulting crude product, and stirred. After 1 hour, 6 ml of acetic anhydride was added to it. Further after 1 hour, 150 ml of pyridine was added to it, and further after 40 minutes, 5 ml of triethylamine was added thereto. Further after 30 minutes, 3 ml of acetic anhydride was added to it, and the reaction liquid was stirred for 30 minutes. The reaction liquid was diluted with ethyl acetate, and washed with aqueous saturated sodium bicarbonate, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried with anhydrous magnesium sulfate, and the solvent was evaporated away under reduced pressure to obtain a crude product. 10 g of potassium carbonate was added to a methanol (200 ml) solution of the resulting crude product, and the reaction liquid was stirred for 4 hours at room temperature. The reaction liquid was distilled under reduced pressure, and the resulting residue was diluted with aqueous saturated ammonium chloride solution, and extracted with ethyl acetate. This was dried with anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure, and the resulting solid was taken out through filtration with ethyl acetate to obtain the entitled compound as a white solid.

reactant | p-toluenesulfonic acid monohydrate | 13 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrolidine-1-carboxylate | 26 g | C(C)OC(=O)C=1C=CC(=C(C1)C1N(CCC1)C(=O)OC(C)(C)C)OCOC | C20H29NO6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 ml | CO | CH4O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 3-(1-acetyl-pyrrolidin-2-yl)-4-hydroxybenzoate | C(C)(=O)N1C(CCC1)C=1C=C(C(=O)OCC)C=CC1O | C15H19NO4
